US05093229
(i) Synthesis of 1-naphthalenesulfonyl chloride
133 g of sodium α-naphthalenesulfonate was suspended in a mixture of 260 ml of acetonitrile and 7 ml of dimethylacetamide. 80 ml of phosphorus oxychloride was added dropwise to the suspension while being cooled with water at a temperature of lower than 50° C. After the dropwise addition was completed, the reaction system was further reacted at a temperature of 65° C. for 1 hour. After cooled to 30° C., the reaction mixture was poured into 2 l of ice water. The resulting grayish white crystal was filtered off, and air-dried. The yield was 110.8 g (84.6% of theoretical value). The melting point of the product was 66° to 68° C.

reactant | sodium α-naphthalenesulfonate | 133 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)[O-].[Na+]
reactant | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
solvent | acetonitrile | 260 ml | C(C)#N | C2H3N
solvent | dimethylacetamide | 7 ml | CC(=O)N(C)C | C4H9NO
product | 1-naphthalenesulfonyl chloride | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
